US07323455B2
3-Fluoro-5-(5-isopropyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)benzonitrile
Prepared from 7-bromo-5-isopropyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-cyano-5-fluorobenzeneboronic acid using the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.07 (s, 1H), 8.03 (s, 1H), 7.90 (m, 1H), 7.84 (m, 1H), 7.77 (m, 2H), 7.51 (dd, J=5.0, 1.2 Hz, 1H), 7.24 (d, J=8.5 Hz, 1H), 7.04 (m, 2H), 4.20 (d, J=14.4 Hz, 1H), 3.96 (d, J=14.4 Hz, 1H), 2.90 (m, 1H), 0.92 (t, J=6.4 Hz, 6H); MS (ES) m/z 407 (M+H)+.

reactant | 7-bromo-5-isopropyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C(C)C)C1 | C16H16BrNO2S
reactant | 3-cyano-5-fluorobenzeneboronic acid | C(#N)C=1C=C(C=C(C1)F)B(O)O | C7H5BFNO2
product | 3-Fluoro-5-(5-isopropyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)benzonitrile | FC=1C=C(C#N)C=C(C1)C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C(C)C)C1 | C23H19FN2O2S
